US07763732B2
To a suspension of 1-cyclohexylmethyl-7-chloro-1H-indole-3-carboxylic acid hydrazide (0.71 g, 2.3 mmol) in dichloromethane (20 ml) was added potassium carbonate (1.6 g, 11 mmol) and the reaction stirred for 1 h. The reaction mixture was cooled in a dry ice/ethanol bath and chloroacetyl chloride (0.2 ml, 3.0 mmol) was added and the reaction stirred for 1 h. Saturated sodium bicarbonate solution (30 ml) was added and the reaction allowed to warm to room temperature. The reaction mixture was extracted with 9:1 (v/v) dichloromethane:methanol (3×20 ml), the organic phases combined, washed with brine (1×30 ml), dried over sodium sulfate, and solvent removed in vacuo to give 1-cyclohexylmethyl-7-chloro-1H-indole-3-carboxylic acid N-(2-chloroacetyl)hydrazide (0.6 g, 2.0 mmol).

reactant | 1-cyclohexylmethyl-7-chloro-1H-indole-3-carboxylic acid hydrazide | 2.3 mmol, 0.71 g | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)Cl)C(=O)NN | C16H20ClN3O
reactant | potassium carbonate | 11 mmol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetyl chloride | 3.0 mmol, 0.2 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium bicarbonate | 30 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-cyclohexylmethyl-7-chloro-1H-indole-3-carboxylic acid N-(2-chloroacetyl)hydrazide | 2.0 mmol, 0.6 g | ClCC(=O)N(N)C(=O)C1=CN(C2=C(C=CC=C12)Cl)CC1CCCCC1 | C18H21Cl2N3O2
